US08633186B2
2-(2-(benzyloxy)ethylamino)-6-nitrobenzonitrile
Prepared as in Example 90c from 2-(benzyloxy)ethanamine and 2,6-dinitrobenzonitrile in 77% yield. 1H NMR (400 MHz, DMSO-d6) δ 3.49 (q, J=5.2 Hz, J=5.6 Hz, 2H), 3.59 (t, J=5.6 Hz, 2H), 4.49 (s, 2H), 6.47 (t, J=5.8 Hz, NH), 7.23-7.31 (m, 6H), 7.43 (d, J=8.0 Hz, 1H), 7.58 (t, J=8.4 Hz, 1H).

reactant | 2-(benzyloxy)ethanamine | C(C1=CC=CC=C1)OCCN | C9H13NO
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(2-(benzyloxy)ethylamino)-6-nitrobenzonitrile | 77% yield | C(C1=CC=CC=C1)OCCNC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C16H15N3O3
